US04164579
1-Chloropentan-2-one (12.1 g) is added to a suspension of triethylammonium (6-methylpyrid-2-yl)dithiocarbamate (28.5 g) in anhydrous acetonitrile (200 cc) at a temperature between 15° and 25° C. The reaction is continued for 2 hours at 20°-25° C. The insoluble triethylamine hydrochloride is removed by filtration and washed twice with diethyl ether (60 cc. total). The solvents are evaporated under reduced pressure (20 mm.Hg) at 40° C. The residual oil is dissolved in a mixture of diethyl ether (100 cc) and methylene chloride (50 cc); the organic solution is washed twice with distilled water (total 100 cc), dried over sodium sulphate and evaporated. The crystals obtained (25.4 g; m.p. about 70° C.) are dissolved in boiling cyclohexane (500 cc) and the boiling solution is filtered. After cooling for 1 hour at about 10° C., the resulting crystals are separated by filtration, washed twice with cyclohexane (total 120 cc) cooled to 10° C., and dried under reduced pressure (0.1 mm.Hg) at 40° C. 4-Hydroxy-3-(6-methylpyrid-2-yl)-4-propylthiazolidine-2-thione (21.6 g), melting at 83° C., is thus obtained.

reactant | 1-Chloropentan-2-one | 12.1 g | ClCC(CCC)=O | C5H9ClO
reactant | triethylammonium (6-methylpyrid-2-yl)dithiocarbamate | 28.5 g | CC1=CC=CC(=N1)NC([S-])=S.C(C)[NH+](CC)CC
reactant | cyclohexane | 500 cc | C1CCCCC1 | C6H12
solvent | acetonitrile | 200 cc | C(C)#N | C2H3N
product | 4-Hydroxy-3-(6-methylpyrid-2-yl)-4-propylthiazolidine-2-thione | 21.6 g | OC1(N(C(SC1)=S)C1=NC(=CC=C1)C)CCC | C12H16N2OS2
